US06153604
Part 1: Preparation of 2,5-dichlorophenylcyanamide
To a heterogeneous slurry of 2,5-dichloroaniline (3.0 g, 18.5 mmol) in 60 mL of water at 4° C. was added solid BrCN (1.22 g, 11.3 mmol) slowly. After 5 minutes the cooling bath was removed and the heterogeneous reaction mixture was stirred at room temperature for 24 hours to yield the product in water suspension. The product was collected by filtration, washed with water (100 mL), and dried under vacuum to yield the pure product (2 g, 60% yield).

reactant | 2,5-dichloroaniline | 18.5 mmol, 3.0 g | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | BrCN | 11.3 mmol, 1.22 g | BrC#N | CBrN
solvent | water | 60 mL | O | H2O
product | 2,5-dichlorophenylcyanamide | 2 g, 60% yield | ClC1=C(C=C(C=C1)Cl)NC#N | C7H4Cl2N2
